US07612094B2
A mixture of 6-bromo-pyridine-2-carbaldehyde (2.0 g, 10.75 mmol), ethylene glycol (3 mL, 53.75 mmol), and a catalytic amount of TsOH in toluene (50 mL) was heated to reflux with a Dean-Stark trap for 1.5 hours and cooled down to room temperature and concentrated in vacuo. The residue was purified on silica gel column with 2% EtOAc in CH2Cl2 to yield 2-bromo-6-[1,3]dioxolan-2-yl-pyridine as a colorless liquid (1.97 g, 80%).

reactant | 6-bromo-pyridine-2-carbaldehyde | 10.75 mmol, 2.0 g | BrC1=CC=CC(=N1)C=O | C6H4BrNO
reactant | ethylene glycol | 53.75 mmol, 3 mL | C(CO)O | C2H6O2
reactant | TsOH | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 2-bromo-6-[1,3]dioxolan-2-yl-pyridine | 1.97 g, 80% | BrC1=NC(=CC=C1)C1OCCO1 | C8H8BrNO2
